US08242125B2
LiAlH4 (0.46 mL, 1.0 M THF) is added to a solution of {6-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid methyl ester (0.125 g, 0.232 mmol) in THF (5 mL). After 0.5 h the excess LiAlH4 is quenched by the addition of saturated aqueous NH4Cl. Workup is done with saturated aqueous NH4Cl and DCM (25 mL each). The residue is then separated via semi-prep HPLC to give 5-[7-(2-hydroxy-ethyl)-6-methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 512.3 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 8.42 (s, 1H), 8.30 (d, J=8.6 Hz, 1H), 8.11 (d, J=3.5 Hz, 1H), 8.09 (s, 1H), 7.94 (d, J=8.3 Hz, 1H), 7.57-7.65 (m, 1H), 7.41-7.46 (m, 2H), 7.11 (dd, J=9.0, 2.4 Hz, 1H), 6.72-6.78 (m, 1H), 4.47 (t, J=5.4 Hz, 1H), 3.75 (s, 2H), 3.57 (q, J=6.1 Hz, 2H), 3.12-3.22 (m, 1H), 2.88-3.00 (m, 1H), 2.54-2.76 (m, 3H), 1.10 (d, J=6.6 Hz, 3H).

reactant | LiAlH4 | 1.0 M, 0.46 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | {6-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid methyl ester | 0.232 mmol, 0.125 g | COC(CN1CC=2N=CN=C(C2CC1C)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H24F3N5O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-[7-(2-hydroxy-ethyl)-6-methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(C(C2)C)CCO)(F)F | C26H24F3N5O3
